US04950745
2-Chloroethyl monomethoxytrityl ether <1> (2.1172 g, 6 mmol) and 4-mercaptodihydrocinnamic acid <2> (0.9112 g, 5 mmol) were dissolved in ethanol (15 ml), and diisopropylethylamine (2.45 ml, 15 mmol) was added to the solution and the mixture was heated and refluxed for 12 hours. The solvent was removed by distillation under a reduced pressure, and the residue was purified by silica gel column chromatography to obtain 1.9945 g (yield=80%) of 4-(2-monomethoxytrityloxyethylthio)dihydrocinnamic acid <3> in the form of a syrup.

reactant | 2-Chloroethyl monomethoxytrityl ether | COC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OCCCl)C=CC=C1 | C22H21ClO2
reactant | 4-mercaptodihydrocinnamic acid | SC1=CC=C(CCC(=O)O)C=C1 | C9H10O2S
reactant | diisopropylethylamine | 15 mmol, 2.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(2-monomethoxytrityloxyethylthio)dihydrocinnamic acid | 1.9945 g, yield=80% | COC(CSC1=CC=C(CCC(=O)O)C=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H30O4S
